US04683000
N-[(4-methoxy-6-methylpyrimidin-2-yl)aminocarbonyl]-1H-indole-7-sulfonamide
To a solution of 1H-indole-7-sulfonamide (1.0 g) and (4-methoxy-6-methylpyrimidin-2-yl)carbamic acid methyl ester (1.0 g) in methylene chloride (100 ml) was added trimethylaluminum (3.2 ml of a 2.0 M solution in toluene). The mixture was heated at reflux for 18 hours under a nitrogen atmosphere. Work-up was achieved by careful addition of 100 ml of 1N HCl followed by separation of the organic layer. The methylene chloride was dried over MgSO4 and evaporated to an oil. The oil was dissolved in ether from which it quickly crystallized to give pure product (TLC) (0.56 g, m.p. 207°-209° C.).

reactant | 1H-indole-7-sulfonamide | 1.0 g | N1C=CC2=CC=CC(=C12)S(=O)(=O)N | C8H8N2O2S
reactant | (4-methoxy-6-methylpyrimidin-2-yl)carbamic acid methyl ester | 1.0 g | COC(NC1=NC(=CC(=N1)OC)C)=O | C8H11N3O3
reactant | trimethylaluminum | C[Al](C)C
reactant | HCl | 1N, 100 ml | Cl | ClH
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | N-[(4-methoxy-6-methylpyrimidin-2-yl)aminocarbonyl]-1H-indole-7-sulfonamide | COC1=NC(=NC(=C1)C)NC(=O)NS(=O)(=O)C=1C=CC=C2C=CNC12 | C15H15N5O4S
